US05972951
2,3,5,6,7,8-Hexahydro-1'-methyl-5-(4'-hydrazinocarbonyl-2'-methylbiphenyl-4-carbonyl)spiro[furo[2,3-g]quinoline-3,4'-piperidine]
The title compound was prepared from 2,3,5,6,7,8-hexahydro-1'-methyl-5-(4'-methoxycarbonyl-2'-methylbiphenyl-4-carbonyl)spiro[furo[2,3-g]quinoline-3,4'-piperidine] (E48) and hydrazine monohydrate, using a procedure similar to that of Example 25 (90%).

reactant | 2,3,5,6,7,8-hexahydro-1'-methyl-5-(4'-methoxycarbonyl-2'-methylbiphenyl-4-carbonyl)spiro[furo[2,3-g]quinoline-3,4'-piperidine] | CN1CCC2(CC1)COC1=CC=3CCCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C | C32H34N2O4
reactant | hydrazine monohydrate | O.NN
product | 2,3,5,6,7,8-Hexahydro-1'-methyl-5-(4'-hydrazinocarbonyl-2'-methylbiphenyl-4-carbonyl)spiro[furo[2,3-g]quinoline-3,4'-piperidine] | CN1CCC2(CC1)COC1=CC=3CCCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)NN)C | C31H34N4O3
